US08314091B2
C: N-tert-Butyl-3-(((2S,6R)-2,6-dimethylpiperazin-1-yl)methyl)benzamide Hydrochloride
(3S,5R)-tert-Butyl 4-(3-(tert-butylcarbamoyl)benzyl)-3,5-dimethylpiperazine-1-carboxylate (0.07 g, 0.17 mmol) was treated with an ethanolic solution of hydrochloric acid (2 mL, 14.5 wt % hydrochloric acid in ethanol). The resultant mixture was stirred at room temperature for 2 hours. The mixture was concentrated under vacuum, azeotroped with dichloromethane (×2) and dried under vacuum to afford the title compound (0.052 g) as a white foamy solid. MS (ESI) m/z 304.4 [M+H]+

reactant | (3S,5R)-tert-Butyl 4-(3-(tert-butylcarbamoyl)benzyl)-3,5-dimethylpiperazine-1-carboxylate | 0.17 mmol, 0.07 g | C(C)(C)(C)NC(=O)C=1C=C(CN2[C@H](CN(C[C@H]2C)C(=O)OC(C)(C)C)C)C=CC1 | C23H37N3O3
reactant | hydrochloric acid | 2 mL | Cl | ClH
product | N-tert-Butyl-3-(((2S,6R)-2,6-dimethylpiperazin-1-yl)methyl)benzamide Hydrochloride | 0.052 g | Cl.C(C)(C)(C)NC(C1=CC(=CC=C1)CN1[C@H](CNC[C@H]1C)C)=O | InChI=1S/C18H29N3O.ClH/c1-13-10-19-11-14(2)21(13)12-15-7-6-8-16(9-15)17(22)20-18(3,4)5;/h6-9,13-14,19H,10-12H2,1-5H3,(H,20,22);1H/t13-,14+;
